US08227458B2
cis/trans-4-(Pyrimidin-2-yloxy)-cyclohexanecarboxylic acid (1:2)
To a solution of cis/trans-4-(pyrimidin-2-yloxy)-cyclohexanecarboxylic acid ethyl ester (1:2) (0.35 g, 1.4 mmol) in 1,4-dioxan (7 ml) was added 2 M aqueous sodium hydroxide solution (7.0 ml, 14 mmol). Stirring at room temperature for 16 h was followed by acidification to pH 2-3 with 0.5 M aqueous hydrogen chloride solution (50 ml) and extraction with three 100-ml portions of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound (0.26 g, 83%) as yellow oil.

reactant | trans-4-(pyrimidin-2-yloxy)-cyclohexanecarboxylic acid ethyl ester | 1.4 mmol, 0.35 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)OC1=NC=CC=N1 | C13H18N2O3
reactant | sodium hydroxide | 14 mmol, 2 M, 7.0 ml | [OH-].[Na+]
solvent | 1,4-dioxan | 7 ml | O1CCOCC1 | C4H8O2
product | trans-4-(Pyrimidin-2-yloxy)-cyclohexanecarboxylic acid | 0.26 g, 83% | N1=C(N=CC=C1)O[C@@H]1CC[C@H](CC1)C(=O)O | C11H14N2O3
